US03959309
3-(Ethylamino)-8-fluoro-1,2,3,4-tetrahydrocarbazole
3-Acetamido-8-fluoro-1,2,3,4-tetrahydrocarbazole -- A solution of 7.8 g. of 4-acetamidocyclohexanone and 8.1 g. of 2-fluorophenylhydrazine hydrochloride in 75 ml. of absolute ethyl alcohol and 25 ml. of 5-N hydrogen chloride in absolute ethyl alcohol was heated under reflux for two hours, cooled, filtered, and the filtrate was evaporated to dryness. The residue was dissolved in chloroform and adsorbed on a column of aluminum oxide. Dilution with ether yielded first a small amount of side-product followed by the desired product which was recrystallized by dissolving in methyl alcohol, adding toluene, and evaporation of the methyl alcohol, to give 10.5 g. of 3-acetamido-8-fluoro-1,2,3,4-tetrahydrocarbazole, m.p. 202°-204°C.

reactant | 3-Acetamido-8-fluoro-1,2,3,4-tetrahydrocarbazole | C(C)(=O)NC1CCC=2NC3=C(C=CC=C3C2C1)F | C14H15FN2O
reactant | 4-acetamidocyclohexanone | C(C)(=O)NC1CCC(CC1)=O | C8H13NO2
reactant | 2-fluorophenylhydrazine hydrochloride | Cl.FC1=C(C=CC=C1)NN
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl alcohol | C(C)O | C2H6O
product | 3-(Ethylamino)-8-fluoro-1,2,3,4-tetrahydrocarbazole | C(C)NC1CCC=2NC3=C(C=CC=C3C2C1)F | C14H17FN2
